US04876370
1-Bromo-2-trimethylsilyloxyethylene (1 g, 5.3 mmol) in anhydrous ethyl ether (10 cc) is introduced under an argon atmosphere into a 50-cc round-bottomed flask. The mixture is cooled to -70° C. and a 1.2M solution (8 cc) of tert-butyllitium in pentane is then added. Stirring is performed for 90 minutes at -70° C. and then 6,10,14-trimethyl-2-pentadecanone (1.19 g) is added in solution in anhydrous ethyl ether (3 cc). The temperature is allowed to rise to about -15° C. and stirring is continued for 1 hour. The solution is cooled to -60° C. and 3N hydrochloric acid (7 cc) is then added over 15 minutes. Stirring is performed for 30 minutes at 10° C. After extracting with ether, washing the ether phases until neutral, drying the ether phases over magnesium sulphate, filtering and evaporating off the solvents, a product is obtained and is purified by flash chromatography. 3,7,11,15-Tetramethyl-2-hexadecenal (1.05 g) is thus obtained and is characterized by its infrared spectrum and its proton nuclear magnetic resonance spectrum.

reactant | 1-Bromo-2-trimethylsilyloxyethylene | 5.3 mmol, 1 g | BrC=CO[Si](C)(C)C | C5H11BrOSi
reactant | tert-butyllitium | C(C)(C)(C)[Li]
reactant | 6,10,14-trimethyl-2-pentadecanone | 1.19 g | CC(CCCC(C)=O)CCCC(CCCC(C)C)C | C18H36O
reactant | hydrochloric acid | 3N, 7 cc | Cl | ClH
solvent | ethyl ether | 10 cc | C(C)OCC | C4H10O
solvent | pentane | CCCCC | C5H12
solvent | ethyl ether | 3 cc | C(C)OCC | C4H10O
product | 3,7,11,15-Tetramethyl-2-hexadecenal | 1.05 g, yield is 80% | CC(=CC=O)CCCC(CCCC(CCCC(C)C)C)C | C20H38O
